US06982348B2
4) ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]propanoate
To a solution of zinc chloride (2.79 g, 20.5 mmol) in diethyl ether (100 ml) was added sodium borohydride (1.55 g, 40.9 mmol), and the mixture was stirred at room temperature for 30 min. Insoluble material was filtered off, and to the filtrate was added a solution of ethyl 3-(4-fluorophenyl)-3-oxo-2-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]propanoate (4.4 g, 10.2 mmol) in diethyl ether (50 ml) at 0° C. The mixture was stirred for 30 min. and 1N hydrochloric acid was added to stop the reaction. After neutralization with saturated aqueous sodium hydrogen carbonate solution, water (200 ml) was further added and the mixture was extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure to give the objective substance (4.40 g, 100%).

reactant | sodium borohydride | 40.9 mmol, 1.55 g | [BH4-].[Na+]
reactant | ethyl 3-(4-fluorophenyl)-3-oxo-2-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]propanoate | 10.2 mmol, 4.4 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1)=O | C20H15F5O5
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 20.5 mmol, 2.79 g | [Cl-].[Zn+2].[Cl-]
solvent | water | 200 ml | O | H2O
product | ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]propanoate | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1)O | C20H17F5O5
